USRE035593
Ethyl-1-azabicyclo[2.2.1]hept-3-ylcarboxylate (D21)
(±) cis-2-benzyl-hexahydropyrano[3,4-c]pyrrole-4(1H)-one (D20) (180 g, 0.78 mole) in ethanol (400 ml) was stirred and cooled to 0° C. and hydrogen bromide gas introduced at such a rate that the temperature did not rise above 20° C. until the solution was saturated. The reaction was allowed to stand at room temperature for 6 h. The reaction was then poured into a well stirred mixture of chloroform (2 L) and saturated aqueous potassium carbonate solution (1.5 L) which was cooled by the addition of solid carbon dioxide. The organic layer was separated and the aqueous layer extracted with chloroform (4×1 L). The combined organic extracts were dried (Na2SO4) concentrated in vacuo to a gum. The gum was then stirred with ether (3×750ml) to remove any unreacted starting material and the ether insoluble gum dissolved in ethanol (1 L). Palladium on charcoal 10% (20 g) was then added and the mixture stirred under an atmosphere of hydrogen at 50° C. for 6 h when the uptake of hydrogen was complete. The reaction was then filtered through Kieselguhr and concentrated in vacuo to a gum. This was partitioned between chloroform and saturated aqueous potassium carbonate solution. The organic phase was separated, dried over sodium sulphate and concentrated in vacuo to a gum. Distillation in vacuo afforded the title compound (D21, 75 g, 0.44 mole, 56%) as an oil b.p. 90°-95° C.0.5mmHg

reactant | (±) cis-2-benzyl-hexahydropyrano[3,4-c]pyrrole-4(1H)-one | 0.78 mole, 180 g | C(C1=CC=CC=C1)N1C[C@H]2[C@@H](C1)CCOC2=O | C14H17NO2
reactant | hydrogen bromide | Br | BrH
reactant | potassium carbonate | 1.5 L | C([O-])([O-])=O.[K+].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | chloroform | 2 L | C(Cl)(Cl)Cl | CHCl3
product | Ethyl-1-azabicyclo[2.2.1]hept-3-ylcarboxylate | 0.44 mole, 75 g, 56% | C(C)OC(=O)C1CN2CCC1C2 | C9H15NO2
